US07262185B2
To a mixture of 90% nitric acid (17 ml) and water (25 ml) was added sodium nitrite (0.07 g) and then 4-n-butyl-3-hydroxymethyl-5-mercapto-4H-1,2,4-triazole (10.0 g) was slowly added for 0.5 hours at 45° C. After cooling to room temperature, sodium carbonate was slowly added thereto to adjust pH to 7 at 0° C. The reaction mixure was concentrated under reduced pressure, methanol was added to the residue, and the precipitates were removed by filtration. The mixture was concentrated under reduced pressure, and the obtained residue was separated and purified by column chromatography (basic silica gel, ethanol:ethyl acetate 1:9), to give 4-n-butyl-3-hydroxymethyl-4H-1,2,4-triazole (6.78 g) as orange oil. To 4-n-butyl-3-hydroxymethyl-4H-1,2,4-triazole (6.78 g) was slowly added thionyl chloride (44 ml) at 0° C. The mixture was heated to reflux for 1 hour, and concentrated under reduced pressure. To the residue was added ethyl acetate, and the precipitated crystals were collected by filtration. The crystals were washed with ethyl acetate, to give 4-n-butyl-3-chloromethyl-4H-1,2,4-triazole hydrochloride (7.03 g) as pale yellow crystals.

reactant | 4-n-butyl-3-hydroxymethyl-4H-1,2,4-triazole | 6.78 g | C(CCC)N1C(=NN=C1)CO | C7H13N3O
reactant | thionyl chloride | 44 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-n-butyl-3-chloromethyl-4H-1,2,4-triazole hydrochloride | 7.03 g | Cl.C(CCC)N1C(=NN=C1)CCl | InChI=1S/C7H12ClN3.ClH/c1-2-3-4-11-6-9-10-7(11)5-8;/h6H,2-5H2,1H3;1H
